US06114325
(1) 2-Octadecylisoindoline-1,3-dione
Phthalic anhydride (1.00 g) and octadecylamine (1.82 g) were stirred for 1 hour at 110° C. The reaction mixture was purified by silica gel column chromatography (silica gel 34 g, chloroform:methanol=20:1), thereby yielding 2.40 g of the aimed compound as white crystals.

reactant | Phthalic anhydride | 1.00 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | octadecylamine | 1.82 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
product | 2-Octadecylisoindoline-1,3-dione | 2.40 g | C(CCCCCCCCCCCCCCCCC)N1C(C2=CC=CC=C2C1=O)=O | C26H41NO2
